US06458781B1
Preparation of (S)-4-Methyl-2-[methyl-(tetrahydro-pyran-4-yl)-amino]-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride
(S)-4-Methyl-2-[methyl-(tetrahydro-pyran-4-yl)-amino]-pentanoic acid (0.300 g, 1.31 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.684 mL, 3.93 mmol) and solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.496 g, 1.31 mmol). The resulting reaction mixture was stirred at that temperature for 25 minutes; solid 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.390 g, 1.31 mmol) was then added. After stirring for, sequentially, 15 minutes at 0° C. and 30 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording an viscous oil. The crude product was further purified by flash chromatography (70% EtOAc in hexane) and treated with ethereal HCl. Subsequent concentration in vacuo and drying under vacuum provided 0.432 g (63%) of the pure titled compound as a white foam; mp 75-92° C. APCI-MS m/z 473.4 (MH+).

reactant | (S)-4-Methyl-2-[methyl-(tetrahydro-pyran-4-yl)-amino]-pentanoic acid | 1.31 mmol, 0.300 g | CC(C[C@@H](C(=O)O)N(C1CCOCC1)C)C | C12H23NO3
reactant | N,N-diisopropylethylamine | 3.93 mmol, 0.684 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.31 mmol, 0.496 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.31 mmol, 0.390 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | (S)-4-Methyl-2-[methyl-(tetrahydro-pyran-4-yl)-amino]-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride | 0.432 g, 63% | Cl.FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)N(C1CCOCC1)C)=O)C1=CC=C(C=C1)F | InChI=1S/C28H38F2N2O2.ClH/c1-20(2)19-27(32(3)25-14-17-34-18-15-25)28(33)31-16-4-5-26(21-6-10-23(29)11-7-21)22-8-12-24(30)13-9-22;/h6-13,20,25-27H,4-5,14-19H2,1-3H3,(H,31,33);1H/t27-;/m0./s1
